US07642264B2
2-(2-Chloro-pyridin-4-yl)-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-6-(4-fluoro-phenyl)-4-trifluoromethyl-pyrimidine (example A.45) (1.5 g, 5.42 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (1.02 g, 6.48 mmol) according to the general procedure IVb. Obtained as a light brown solid (0.49 g, 26%). MS (ISP) 354.2 [(M+H)+]; mp 138.5° C.

reactant | 2-chloro-6-(4-fluoro-phenyl)-4-trifluoromethyl-pyrimidine | 5.42 mmol, 1.5 g | ClC1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)F | C11H5ClF4N2
reactant | 2-chloro-pyridine-4-boronic acid | 6.48 mmol, 1.02 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C16H8ClF4N3
